US07435735B2
Step 3: Ethyl N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)methyl]glycinate
To a solution of glycine methyl ester hydrochloride (16.24 g, 116.31 mmol) and Et3N (16.21 mL, 116.31 mmol) in MeOH were added a solution of benzyl 1-formylcyclopropylcarbamate (5.10 g, 23.26 mmol) in MeOH (100 mL) and sodium cyanoborohydride (1.83 g, 29.08 mmol). The reaction was stirred at room temperature overnight, and the solvent was removed in vacuo. The resulting residue was suspended in Et2O and washed with aqueous 5% NaOH solution. The aqueous layer was extracted once with Et2O and once with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to afford the product.

reactant | glycine methyl ester hydrochloride | 116.31 mmol, 16.24 g | Cl.COC(CN)=O
reactant | Et3N | 116.31 mmol, 16.21 mL | CCN(CC)CC | C6H15N
reactant | benzyl 1-formylcyclopropylcarbamate | 23.26 mmol, 5.10 g | C(=O)C1(CC1)NC(OCC1=CC=CC=C1)=O | C12H13NO3
reactant | sodium cyanoborohydride | 29.08 mmol, 1.83 g | C(#N)[BH3-].[Na+]
solvent | MeOH | CO | CH4O
solvent | MeOH | 100 mL | CO | CH4O
product | Ethyl N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)methyl]glycinate | C(C1=CC=CC=C1)OC(=O)NC1(CC1)CNCC(=O)OCC | C16H22N2O4
